US06541638B2
4.7 g (15.7 mmol) (2S,4R)-4-Hydroxy-2-(piperidin-1-ylcarbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester in 300 ml CH2Cl2 were treated with 4.5 g (23.6 mmol, 1.5 eq) p-toluene sulfonylchloride in the presence of 2.88 g (23.6 mmol, 1.5 eq) DMAP at RT for 48 h. The solution was washed with 1M KHSO4, water, 5% aq. NaHCO3 solution, water and brine, dried over Na2SO4 and was concentrated. Flash chromatography yielded 6.42 g (90%) (2S,4R)-2-(Piperidine-1-carbonyl)-4-(toluene-4-sulfonyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester as white foam.

reactant | (2S,4R)-4-Hydroxy-2-(piperidin-1-ylcarbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 15.7 mmol, 4.7 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)N1CCCCC1 | C15H26N2O4
reactant | p-toluene sulfonylchloride | 23.6 mmol, 4.5 g, 1.5 eq | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 23.6 mmol, 2.88 g, 1.5 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | (2S,4R)-2-(Piperidine-1-carbonyl)-4-(toluene-4-sulfonyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 6.42 g, 90% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)C(=O)N1CCCCC1 | C22H32N2O6S
